US05334576
Preparation of diethyl pyridine-2,3-dicarboxylate-N-oxide
A mixture of 99 g of diethyl pyridine-2,3-dicarboxylate, 7.2 mL of concentrated sulfuric acid, 85 mL of 30% hydrogen peroxide and 256 mL acetic acid is stirred and heated at 85° for 4 hours. The reaction is concentrated in vacuo, and the residue is dissolved in methylene chloride, and washed with water, then saturated sodium bicarbonate. After drying, the organic phase is concentrated in vacuo to afford 79 g of the desired product, mp 80°-85°. A portion recrystallized from carbon tetrachloride-pentane has mp 87°-88°.

reactant | diethyl pyridine-2,3-dicarboxylate | 99 g | N1=C(C(=CC=C1)C(=O)OCC)C(=O)OCC | C11H13NO4
reactant | sulfuric acid | 7.2 mL | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen peroxide | 85 mL | OO | H2O2
solvent | acetic acid | 256 mL | C(C)(=O)O | C2H4O2
product | diethyl pyridine-2,3-dicarboxylate-N-oxide | 79 g | [N+]1(=C(C(=CC=C1)C(=O)OCC)C(=O)OCC)[O-] | C11H13NO5
